US06051712
A solution of 210 mg (0.425 mmol) of tert-butyl (3RS,4RS, 5SR)-4-(4-chloro-phenyl)-3-naphthalen-2-ylmethoxy-5-propyl-piperidine-1-carboxylate in 18 ml of methanol was treated with 12 ml of 1 N hydrochloric acid and stirred at 50° C. overnight. Subsequently, the solution was evaporated under reduced pressure, the residue was taken up in warm toluene and again evaporated, the product beginning to separate out. There were obtained 153 mg (84% of theory) of (3RS,4RS,5SR)-4-(4-chloro-phenyl)-3-naphthalen-2-ylmethoxy-5-propyl-piperidine as a colourless solid. MS: 252 (M-naphthylmethyl)+.

reactant | tert-butyl (3RS,4RS, 5SR)-4-(4-chloro-phenyl)-3-naphthalen-2-ylmethoxy-5-propyl-piperidine-1-carboxylate | 0.425 mmol, 210 mg | ClC1=CC=C(C=C1)C1C(CN(CC1CCC)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C30H36ClNO3
reactant | hydrochloric acid | 1 N, 12 ml | Cl | ClH
solvent | methanol | 18 ml | CO | CH4O
product | (3RS,4RS,5SR)-4-(4-chloro-phenyl)-3-naphthalen-2-ylmethoxy-5-propyl-piperidine | 153 mg, 84% | ClC1=CC=C(C=C1)C1C(CNCC1CCC)OCC1=CC2=CC=CC=C2C=C1 | C25H28ClNO
